US07858640B2
(S)-2-[3-(2-chloro-4-cyclobutylcarbamoylbenzyl)-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy]propionic Acid
A mixture of (S)-2-[3-(2-chloro-4-cyclobutylcarbamoylbenzyl)-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy]propionic acid methyl ester (0.18 g), tetrahydrofuran (5.0 mL) and 1.0 M aqueous lithium hydroxide solution (1.0 mL) was stirred at room temperature for 3 hours. The mixture was concentrated under reduced pressure, acidified by the addition of sodium dihydrogenphosphate and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure. Purification of the residue by column chromatography on C-18 column, eluting with a mixture of water and methanol (9:1 to 0:1 by volume) gave title compound as a pale yellow solid, 0.13 g.

reactant | (S)-2-[3-(2-chloro-4-cyclobutylcarbamoylbenzyl)-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy]propionic acid methyl ester | 0.18 g | COC([C@H](C)OC1=C2C(=C(C(=NC2=C(C=C1)F)CC)CC1=C(C=C(C=C1)C(NC1CCC1)=O)Cl)OC(F)F)=O | C28H28ClF3N2O5
reactant | lithium hydroxide | 1.0 M, 1.0 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | (S)-2-[3-(2-chloro-4-cyclobutylcarbamoylbenzyl)-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy]propionic Acid | ClC1=C(CC=2C(=NC3=C(C=CC(=C3C2OC(F)F)O[C@H](C(=O)O)C)F)CC)C=CC(=C1)C(NC1CCC1)=O | C27H26ClF3N2O5
